US04621082
Ethyl 2,4-diamino-7-methyl-5-phenyl-5,8-dihydro-pyrido[2,3-d]pyrimidine-6-carboxylate
2.2 g (10 mmol) of ethyl 2-benzylideneacetoacetate were heated under reflux for 10 hours together with 1.3 g (10 mmol) of 2,4,6-triaminopyrimidine in 25 ml of glacial acetic acid. The reaction mixture was then cooled to room temperature, and the precipitated product was filtered off with suction and recrystallized as the acetate from acetonitrile.

reactant | ethyl 2-benzylideneacetoacetate | 10 mmol, 2.2 g | C(C1=CC=CC=C1)=C(C(=O)OCC)C(=O)C | C13H14O3
reactant | 2,4,6-triaminopyrimidine | 10 mmol, 1.3 g | NC1=NC(=CC(=N1)N)N | C4H7N5
solvent | acetic acid | 25 ml | C(C)(=O)O | C2H4O2
product | Ethyl 2,4-diamino-7-methyl-5-phenyl-5,8-dihydro-pyrido[2,3-d]pyrimidine-6-carboxylate | NC=1N=C(C2=C(N1)NC(=C(C2C2=CC=CC=C2)C(=O)OCC)C)N | C17H19N5O2
